US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)benzamide
A mixture of 3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-hydroxy-N-(5-methylpyrazin-2-yl)benzamide (0.12 g, 0.29 mmol), 2-(azetidin-1-ylcarbonyl)-5-chloropyrazine (57 mg, 0.29 mmol) and potassium carbonate (80 mg, 0.57 mmol) in acetonitrile (5 mL) was stirred in a microwave reactor at 140° C. for 1 hour. The mixture was reduced in vacuo and ethyl acetate (50 mL) added. The mixture was washed with water (50 mL), brine (50 mL), dried (MgSO4), filtered and reduced in vacuo to give a brown oil which was chromatographed on silica, eluting with 50 to 100% ethyl acetate in isohexane, to give the desired compound as a colourless oil (90 mg). 1H NMR δ (CDCl3): −0.03 (s, 3H), 0.00 (s, 3H), 0.81 (s, 9H), 1.26 (d, 3H), 2.32 (quin, 2H), 2.49 (s, 3H), 3.61-3.76 (m, 2H), 4.20 (t, 2H), 4.46 (sextet, 1H), 4.62 (t, 2H), 6.91 (t, 1H), 7.21 (t, 1H), 7.32 (t, 1H), 8.07 (s, 1H), 8.28 (d, 1H), 8.30 (s, 1H), 8.79 (d, 1H), 9.48 (d, 1H). m/z 579 (M+H)+

reactant | 3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-hydroxy-N-(5-methylpyrazin-2-yl)benzamide | 0.29 mmol, 0.12 g | CC(C)(C)[Si](OC[C@H](C)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O)(C)C | C21H31N3O4Si
reactant | 2-(azetidin-1-ylcarbonyl)-5-chloropyrazine | 0.29 mmol, 57 mg | N1(CCC1)C(=O)C1=NC=C(N=C1)Cl | C8H8ClN3O
reactant | potassium carbonate | 0.57 mmol, 80 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)benzamide | 90 mg | N1(CCC1)C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C | C29H38N6O5Si
